US05308837
Step A: 1-Phthalimido-3-Chloro-2-Methylenepropane
A mixture of 3-chloro-2-chloromethyl-1-propene (6.55 g, 50 mmol) and potassium phthalimide (5.6 g, 30 mmol) in anhydrous dimethylformamide (200 ml) was heated two days at 50° C. Then the mixture was concentrated in vacuo and, after usual work-up, the product was purified by flash chromatography on silica gel (ethyl acetate:hexane; 15:85) (4.2 g, 78%).

reactant | 3-chloro-2-chloromethyl-1-propene | 50 mmol, 6.55 g | ClCC(=C)CCl | C4H6Cl2
reactant | potassium phthalimide | 30 mmol, 5.6 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 1-Phthalimido-3-Chloro-2-Methylenepropane | C1(C=2C(C(N1CC(CCl)=C)=O)=CC=CC2)=O | C12H10ClNO2
